US06403705B1
6 g of 1-(diisopropyltriazenyl)-4-((trimethylsilyl)ethynyl)benzene (19.9 mmol, 1 eq.) are dissolved in 100 ml of MeOH, and 13.7 g of K2CO3 (99.5 mmol, 5 eq.) are added in small portions. The reaction medium is stirred at room temperature for 15 h and then evaporated to dryness and taken up in 100 ml of water and 100 ml of EtOAc. The aqueous phase is extracted four times with 50 ml of EtOAc, after which the organic phase is dried over magnesium sulfate, filtered and then evaporated to give 4.38 g of 1-(diisopropyltriazenyl)-4-ethynylbenzene with a yield of 96%.

reactant | 1-(diisopropyltriazenyl)-4-((trimethylsilyl)ethynyl)benzene | 19.9 mmol, 6 g, 1 eq. | C(C)(C)N(N=NC1=CC=C(C=C1)C#C[Si](C)(C)C)C(C)C | C17H27N3Si
reactant | K2CO3 | 99.5 mmol, 13.7 g, 5 eq. | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 100 ml | CO | CH4O
product | 1-(diisopropyltriazenyl)-4-ethynylbenzene | 4.38 g, yield of 96% | C(C)(C)N(N=NC1=CC=C(C=C1)C#C)C(C)C | C14H19N3
